US07786165B2
ethyl 6-(acetylamino)-4′-(benzyloxy)-2′,6′-dimethylbiphenyl-3-carboxylate
[4-(Benzyloxy)-2,6-dimethylphenyl]boronic acid (333 mg, 1.30 mmol) and ethyl 4-(acetylamino)-3-bromobenzoate (286 mg, 1.00 mmol) were dissolved in a mixture of 2 M aqueous sodium carbonate solution (1.30 mL), toluene (10 mL) and 1,2-dimethoxyethane (1 mL), the air was substituted with argon gas, and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (65.7 mg, 0.16 mmol) and tris(dibenzylideneacetone)dipalladium(0) (36.6 mg, 0.04 mmol) were added. The reaction mixture was heated under reflux under an argon atmosphere for one day. After cooling the reaction mixture, brine was added, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=13/7) to give the title compound (401 mg, yield 96%) as a colorless amorphous powder.

reactant | [4-(Benzyloxy)-2,6-dimethylphenyl]boronic acid | 1.30 mmol, 333 mg | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)B(O)O)C | C15H17BO3
reactant | ethyl 4-(acetylamino)-3-bromobenzoate | 1.00 mmol, 286 mg | C(C)(=O)NC1=C(C=C(C(=O)OCC)C=C1)Br | C11H12BrNO3
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.16 mmol, 65.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | sodium carbonate | 2 M, 1.30 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
solvent | brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.04 mmol, 36.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 6-(acetylamino)-4′-(benzyloxy)-2′,6′-dimethylbiphenyl-3-carboxylate | 401 mg, yield 96% | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1=CC=CC=C1)C)C(=O)OCC | C26H27NO4
